US07312330B2
7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydro-N-(4-(trifluoromethoxy)-phenyl)pyrido[3,4-d]pyrimidin-4-amine
A mixture of 4-chloro-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (0.103 g, 0.000366 mol), 4-(trifluoromethoxy)aniline (0.0983 mL, 0.000733 mol) and sodium iodide (0.020 g, 0.00013 mol) in Acetonitrile (3 mL, 0.06 mol) was heated via microwave in a sealed tube at 180° C. for 15 minutes. After cooling to room temperature, the mixture was added to saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. Concentrated to leave an oil. The residue was purified by flash chromatography over silica gel (ethyl acetate/hexane gradient 0 to 100%) to give 0.092 g of an off-white solid.

reactant | 4-chloro-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.000366 mol, 0.103 g | ClC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2Cl | C12H10Cl2N4
reactant | 4-(trifluoromethoxy)aniline | 0.000733 mol, 0.0983 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | sodium iodide | 0.00013 mol, 0.020 g | [I-].[Na+]
reactant | Acetonitrile | 0.06 mol, 3 mL | C(C)#N | C2H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydro-N-(4-(trifluoromethoxy)-phenyl)pyrido[3,4-d]pyrimidin-4-amine | 0.092 g | ClC=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=CC=C(C=C1)OC(F)(F)F | C19H15ClF3N5O
